US07119207B2
3,3-Dimethoxy-1,2,3,4,5,6-hexahydro-[2,3′]bipyridinyl
To 3,3-Dimethoxy-2,3,4,5-tetrahydro-1H-[2,3′]bipyridinyl-6-one (1.0 g, 421 mmol) in 3 mL THF was added borane-dimethylsulfide complex (3.0 mL, 6.0 mmol of a 2 M solution in THF) at 0° C. The solution was stirred at rt overnight, and was then quenched with methanol and heated at reflux for 2 h. The methanol was removed under vacuum and the residue was partitioned between water and chloroform. The mixture was acidified to pH=3 and washed with CHCl3 (3–10 mL). The aqueous material was then basifed to pH=8 with solid NaHCO3 and then was extracted with CHCl3 (3×15 mL). The extracts were dried over MgSO4 and concentrated to give 812 mg (86%) of a pale yellow oil: mass spectrum m/e=223.

reactant | 3,3-Dimethoxy-2,3,4,5-tetrahydro-1H-[2,3′]bipyridinyl-6-one | 421 mmol, 1.0 g | COC1(C(NC(CC1)=O)C=1C=NC=CC1)OC | C12H16N2O3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3,3-Dimethoxy-1,2,3,4,5,6-hexahydro-[2,3′]bipyridinyl | 812 mg, 86% | COC1(C(NCCC1)C=1C=NC=CC1)OC | C12H18N2O2
